US07776872B2
A mixture of 3-isopropyl-4-methoxyaniline (4.22 g, 23.6 mmol), 5.87 g (63.7 mmole) of glycerol and 3.25 g (14 mmol) of As2O5 was heated to 100° C. with stirring At 100° C., 4.0 mL of concentrated H2SO4 was added dropwise. The mixture was heated at 150-160° C. for six hours, then cooled to 80° C., and 20 mL water was added, followed by aqueous saturated NaHCO3 until the mixture reached pH7-8. The mixture was diluted with 100 mL of water and 300 mL of ethyl acetate and the solution mixture was decanted from insolubles. The organic layer was separated, washed with brine, dried (MgSO4), filtered and concentrated under reduced pressure. The resulting residue was purified by column chromatography with silica eluting with 20% ethyl acetate in hexanes to give 2.58 g of 7-isopropyl-6-methoxyquinoline, together with 0.65 g of 6-hydroxy-7-isopropylquinoline as a minority product.

reactant | 3-isopropyl-4-methoxyaniline | 23.6 mmol, 4.22 g | C(C)(C)C=1C=C(N)C=CC1OC | C10H15NO
reactant | glycerol | 63.7 mmole, 5.87 g | OCC(O)CO | C3H8O3
reactant | H2SO4 | 4.0 mL | OS(=O)(=O)O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
product | 7-isopropyl-6-methoxyquinoline | 2.58 g | C(C)(C)C1=C(C=C2C=CC=NC2=C1)OC | C13H15NO
